US08138197B2
2-Phenyl-6-(tetrazol-5-yl)pyridine-4-carboxylic acid
Aqueous 2 N sodium hydroxide solution (8.4 mL) was added to an MeOH (85 mL) solution of methyl 2-phenyl-6-(tetrazol-5-yl)pyridine-4-carboxylate (3.19 g), and stirred at 50° C. for 4 hours. With cooling with ice, 2N hydrochloric acid (16.8 mL) and water were added to it, the formed precipitate was taken out through filtration, washed with water and dried to obtain the title compound as a flesh-colored powder.

reactant | sodium hydroxide | 2 N, 8.4 mL | [OH-].[Na+]
reactant | MeOH | 85 mL | CO | CH4O
reactant | methyl 2-phenyl-6-(tetrazol-5-yl)pyridine-4-carboxylate | 3.19 g | C1(=CC=CC=C1)C1=NC(=CC(=C1)C(=O)OC)C1=NN=NN1 | C14H11N5O2
reactant | hydrochloric acid | 2N, 16.8 mL | Cl | ClH
solvent | water | O | H2O
product | 2-Phenyl-6-(tetrazol-5-yl)pyridine-4-carboxylic acid | C1(=CC=CC=C1)C1=NC(=CC(=C1)C(=O)O)C1=NN=NN1 | C13H9N5O2
